US07232821B2
a) 3(2-Bromocyclopent-1-enyl)-benzoic acid ethyl ester
1,2-Dibromocyclopentene (Ex Aldrich, 27,732-0) (5 g, 0.0221 mol), (3-ethoxycarbonylphenyl) boronic acid (Ex Combiblocks inc. BB-2117-005) (4.26 g, 0.0221 mol), Pd(0)[PPh3]4 (0.5 g) and potassium carbonate (5 g) were stirred at 80° C. under nitrogen for 18 h in dimethoxyethane (30 mL). The reaction mixture was then filtered through Kieselguhr and evaporated down to an oil. Purification was carried out on a Biotage (90 g column) using isohexane containing a gradient of dichloromethane (0–30%) to give the required product (wt: 1.15 g i.e. 30% yield)

reactant | 1,2-Dibromocyclopentene | 0.0221 mol, 5 g | BrC1=C(CCC1)Br | C5H6Br2
reactant | (3-ethoxycarbonylphenyl) boronic acid | 0.0221 mol, 4.26 g | C(C)OC(=O)C=1C=C(C=CC1)B(O)O | C9H11BO4
reactant | potassium carbonate | 5 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethoxyethane | 30 mL | C(OC)COC | C4H10O2
product | 3(2-Bromocyclopent-1-enyl)-benzoic acid ethyl ester | 1.15 g, 30% yield | C(C)OC(C1=CC(=CC=C1)C1=C(CCC1)Br)=O | C14H15BrO2
